US08791161B2
(3-Bromo-propyl)-carbamic acid tert-butyl ester
A mixture of 3-bromo-propylamine hydrochloride (523 mg, 2.39 mmol), di-tert-butyl dicarbonate (573 mg, 2.63 mmol), NaOH (1N, 1.5 ml) in MeOH was stirred at rt overnight. The mixture was added water and extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography in silica gel.

reactant | 3-bromo-propylamine hydrochloride | 2.39 mmol, 523 mg | Cl.BrCCCN
reactant | di-tert-butyl dicarbonate | 2.63 mmol, 573 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 1N, 1.5 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | MeOH | CO | CH4O
product | (3-Bromo-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCBr)=O | C8H16BrNO2
